US09290451B2
(S)-5-Cyclopropyl-6-(cyclopropylmethoxy)-N-(4,4-dimethyl-1-(methylamino)-1-oxopentan-2-yl)picolinamide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 42 a) and (2S)-2-amino-N,4,4-trimethyl-pentanamide (CAN 1160161-70-5) as starting materials, MS (EI): m/e=374.1 [M+H]+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | (2S)-2-amino-N,4,4-trimethyl-pentanamide | N[C@H](C(=O)NC)CC(C)(C)C | C8H18N2O
product | (S)-5-Cyclopropyl-6-(cyclopropylmethoxy)-N-(4,4-dimethyl-1-(methylamino)-1-oxopentan-2-yl)picolinamide | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)N[C@H](C(=O)NC)CC(C)(C)C | C21H31N3O3
